US08895037B2
TRP-2 catalyzes the tautomerization of DOPAchrome to 5,6-dihydroxyindole-2-carboxylic acid (DHICA). In the absence of TRP-2, DOPAchrome undergoes a spontaneous decarboxylation to form 5,6-dihydroxyindole (DHI).

reactant | DOPAchrome | C1C(NC2=CC(=O)C(=O)C=C21)C(=O)O | C9H7NO4
reactant | 5,6-dihydroxyindole-2-carboxylic acid | OC=1C=C2C=C(NC2=CC1O)C(=O)O | C9H7NO4
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
